US05106842
Diphenylmethyl 7-(t-butoxycarbonylamino)-3-(3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl)-3-cephem-4-carboxylate Ia1
A solution of diphenylmethyl 7-(t-butyloxycarbonylamino)-3-trifluoromethylsulfonyloxy-3-cephem-4-carboxylate (307 mg, 0.50 mmol) and 4-(2-propoxy)-3-(tri-n-butylstannyl)cyclobut-3-ene-1,2-dione (236 mg, 0.55 mmol) in N-methyl-2-pyrrolidinone (NMP, 4.5 mL) was degassed with a gentle stream of argon. Tris(2-furyl)phosphine (11.5 mg, 0.050 mmol), zinc chloride (136 mg, 1.0 mmol), and bis(dibenzylidene-acetone) palladium (0) (14.4 mg, 0.025 mmol) were successively added. The mixture was stirred at an oil bath temperature of 60°-65° C. for 0.5 hr and was diluted with ethyl acetate. The resulting solution was sequentially washed with saturated aqueous NH4Cl (3X), H2O, and saturated NaCl and then was dried over Na2SO4. The filtrate was concentrated, and a solution of the residue in acetonitrile was washed with n-pentane (3X). Removal of the acetonitrile left a dark oil which was chromatographed on SiO2 (19 g) with methylene chloride-acetone (97:3) to afford the title compound (228 mg, 75% yield) as a bright yellow solid. Recrystallization from diisopropyl ether gave the analytical sample.

reactant | diphenylmethyl 7-(t-butyloxycarbonylamino)-3-trifluoromethylsulfonyloxy-3-cephem-4-carboxylate | 0.50 mmol, 307 mg | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C(F)(F)F)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C26H25F3N2O8S2
reactant | 4-(2-propoxy)-3-(tri-n-butylstannyl)cyclobut-3-ene-1,2-dione | 0.55 mmol, 236 mg | CC(C)OC1=C(C(C1=O)=O)[Sn](CCCC)(CCCC)CCCC
reactant | Tris(2-furyl)phosphine | 0.050 mmol, 11.5 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | N-methyl-2-pyrrolidinone | 4.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 1.0 mmol, 136 mg | [Cl-].[Zn+2].[Cl-]
catalyst | bis(dibenzylidene-acetone) palladium (0) | 0.025 mmol, 14.4 mg | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | Diphenylmethyl 7-(t-butoxycarbonylamino)-3-(3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl)-3-cephem-4-carboxylate | 228 mg, 75% yield | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)OC(C)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H32N2O8S
